data_prep/sources/art_augmented_reactions.json
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CCl)c(F)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CCl)c(F)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CCl)c(F)c1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)C)c([Si](C)(C)CCl)c(F)c4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(Cl)ccc1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(Cl)ccc1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(Cl)ccc1C)C(C)C", "products": "Cc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "Cc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "Cc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "Cc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "Cc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "Cc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1ccc(C(=O)C2C3CCC2C3)cc1", "products": "Cc1ccc([C]([O])C2C3CCC2C3)cc1"}, {"reactants": "Cc1ccc([C]([O])C2C3CCC2C3)cc1", "products": "Cc1ccc(C([O])=CC2C[CH]CC2)cc1"}, {"reactants": "Cc1ccc(C([O])=CC2C[CH]CC2)cc1", "products": "Cc1ccc(C(O)=CC2C=CCC2)cc1"}, {"reactants": "Cc1ccc(C(O)=CC2C=CCC2)cc1", "products": "Cc1ccc(C(=O)CC2C=CCC2)cc1"}]}
{"conditions": [], "steps": [{"reactants": "CCC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1.C=O", "products": "CCC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1"}, {"reactants": "CCC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1", "products": "CCC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1"}, {"reactants": "CCC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1", "products": "C=[N+](O)[C@@H]1C[C@H](CCC)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C[C@H](CCC)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C[C@H](CCC)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C[C@H](CCC)C[C@H]2CC=CC[C@H]21", "products": "CCC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(NN=CCc2ccccc2)cc(C)c1OC.Cl[Zn]Cl", "products": "COc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc(C)c1OC"}, {"reactants": "COc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc(C)c1OC", "products": "COc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc(C)c1OC.[H+]"}, {"reactants": "COc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc(C)c1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(C)cccc2OC)C(=N)C=C1", "products": "COc1c(C)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1OC"}, {"reactants": "COc1c(C)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1OC", "products": "COc1c(C)cc2c(c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1c(C)cc2c(c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1c(C)cc2c(c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1c(C)cc2c(c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1c(C)cc2c(c1OC)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1c(C)cc2c(c1OC)C(c1ccccc1)C=[NH+]2", "products": "COc1c(C)cc2[nH]cc(-c3ccccc3)c2c1OC.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)cc1.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-](Cl)Cl)cc1"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-](Cl)Cl)cc1", "products": "COc1ccc(NN([Zn-](Cl)Cl)C=Cc2ccccc2)cc1.[H+]"}, {"reactants": "COc1ccc(NN([Zn-](Cl)Cl)C=Cc2ccccc2)cc1", "products": "COC1=CC(C(c2ccccc2)C=N[Zn-](Cl)Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(c2ccccc2)C=N[Zn-](Cl)Cl)C(=N)C=C1", "products": "COc1ccc(N)c(C(c2ccccc2)C=N[Zn-](Cl)Cl)c1"}, {"reactants": "COc1ccc(N)c(C(c2ccccc2)C=N[Zn-](Cl)Cl)c1", "products": "COc1ccc2c(c1)C(c3ccccc3)C([N-][Zn-](Cl)Cl)[NH2+]2"}, {"reactants": "COc1ccc2c(c1)C(c3ccccc3)C([N-][Zn-](Cl)Cl)[NH2+]2.[H+]", "products": "COc1ccc2c(c1)C(c3ccccc3)C([NH2+][Zn-](Cl)Cl)N2"}, {"reactants": "COc1ccc2c(c1)C(c3ccccc3)C([NH2+][Zn-](Cl)Cl)N2", "products": "COc1ccc2c(c1)C(c3ccccc3)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1ccc2c(c1)C(c3ccccc3)C=[NH+]2", "products": "COc1ccc2[nH]cc(c3ccccc3)c2c1.[H+]"}]}
